US05158946
(b) Diphenylmethyl 7β-Amino-3-(6-methyl-2-oxo-2H-pyran-4-ylthiomethyl)ceph-3-em- 4-carboxylate
A stirred solution of diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthiomethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate (1.55 g) in dichloromethane (20 ml) was cooled to -15° to -20° C. and N-methylmorpholine (0.54 ml) was added followed by a solution of phosphorus pentachloride in dichloromethane (19 ml of a solution containing 40 mg ml-1). The mixture was maintained at the same temperature for 0.5 h and then methanol (4.9 ml) was added and the mixture stirred at room temperature for 0.5 h. Water (6.6 ml) was then added and the mixture was vigorously stirred for 0.5 h. Most of the dichloromethane was removed on a rotary evaporator and the residue was stirred with water and ethyl acetate. The pH of the aqueous phase was adjusted to 6.2 with 1N aqueous ammonia. The organic phase was separated, washed with water and brine, dried over magnesium sulphate and evaporated. The product (1.20 g) was isolated by column chromatography using gradient elution (Kieselgel 1:1 hexane:ethyl acetate going to neat ethyl acetate). υmax (CHCl3) 1785, 1710cm-1 δ(CDCl3) 1.79 (2H, S). 2.18 (3H, S) 3.42 (1H, d, J 18.2Hz), 3.61 (1H, d, J 18.3Hz), 3.80 (1H, d, J 12.2Hz), 3.90 (1H, d, J 12.2Hz), 4.80 (1H, d, J 5.2Hz), 4.96 (1H, d, J 5.1Hz), 5.66 (1H, d, J ca 1Hz), 5.78 (1H, d, J ca 1Hz), 7.00 (1H, s), 7.2-7.45 (10H, m). [Mass spectrum: +ve ion (3NOBA, Na+) MNa+ 543].

reactant | diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthiomethyl)-7β-phenylacetamidoceph-3-em-4-carboxylate | 1.55 g | CC1=CC(=CC(O1)=O)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C35H30N2O6S2
reactant | N-methylmorpholine | 0.54 ml | CN1CCOCC1 | C5H11NO
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 4.9 ml | CO | CH4O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Water | 6.6 ml | O | H2O
product | Diphenylmethyl 7β-Amino-3-(6-methyl-2-oxo-2H-pyran-4-ylthiomethyl)ceph-3-em- 4-carboxylate | 1.20 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=CC(OC(=C2)C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N2O5S2
